US09260413B2
To a mixture of 0.05 g (0.26 mmol) 4-trifluoromethylphenylboronic acid, 0.02 g (0.009 mmol Pd EN Cat™ 30, and 0.65 mL 1 M aq Cs2CO3, was added a solution of 0.005 g (0.009 mmol) 1,1′-(bisdiphenylphosphino)ferrocene and 0.03 g (0.17 mmol) 2-chloro-4,5-dimethoxy-pyrimidine in 1 mL THF, The resulting mixture was heated by microwave to 150° C. for 10 minutes. After cooling, the aq layer was removed and the organic phase was filtered and concentrated. To the resulting residue was added 1 mL 33% HBr in AcOH, and the resulting mixture was heated by microwave to 160° C. for 5 min. The resulting solution was diluted with water (2 mL) and loaded onto an SCX column. After washing with MeOH (5 mL), the crude product was eluted off with 2 M ammonia in MeOH. Purification by automated mass-guided HPLC afforded 1.7 mg (4%) 5-hydroxy-2-(4-trifluoromethyl-phenyl)-3H-pyrimidin -4-one. NMR (499 MHz, DMSO-d6): δ 9.85 (br s, 1 H); 8.22 (d, J=7.93 Hz, 2 H); 7.85 (d, J=8.12 Hz, 2 H); 7.63 (br s, 1 H). High resolution mass spec (FT/ICR) calc (M+H)+=257.0533 found 257.0532.

reactant | 4-trifluoromethylphenylboronic acid | 0.26 mmol, 0.05 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Cs2CO3 | 1 M, 0.65 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloro-4,5-dimethoxy-pyrimidine | 0.17 mmol, 0.03 g | ClC1=NC=C(C(=N1)OC)OC | C6H7ClN2O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd | 0.009 mmol | [Pd] | Pd
product | 5-hydroxy-2-(4-trifluoromethyl-phenyl)-3H-pyrimidin -4-one | 1.7 mg, 4% | OC=1C(NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)=O | C11H7F3N2O2
